US04610818
1.7 ml of triethylamine and 3.6 g of the N-hydroxysuccinimide ester of 1-butoxycarbonylaminocyclopropane-1-carboxylic acid were added to 2.3 g of L-leucyl-glycinamide in 30 ml of dioxane at 10° C., the reaction mixture was stirred for 1 hour at this temperature, 10 ml of water were added and the reaction was continued for 20 hours at room temperature. In the working up procedure, the mixture was taken up in ethyl acetate and the solution was washed successively with 10% strength aqueous citric acid solution, sodium carbonate solution and water, dried over sodium sulfate and evaporated down under reduced pressure. The residue was purified by chromatography over a silica gel column (elution with 10:1 dichloromethane/methanol) to give 3.1 g of 1-butoxycarbonylaminocycloprop-1-yl-carbonyl-L-leucyl-glycinamide.

reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | 1-butoxycarbonylaminocyclopropane-1-carboxylic acid | C(CCC)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | L-leucyl-glycinamide | 2.3 g | N[C@@H](CC(C)C)C(=O)NCC(=O)N | C8H17N3O2
reactant | water | 10 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-butoxycarbonylaminocycloprop-1-yl-carbonyl-L-leucyl-glycinamide | 3.1 g | C(CCC)OC(=O)NC1(CC1)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N | C17H30N4O5
